US08236976B2
Preparation of (S)-1-Phenyl-hept-2-en-1-ol (2)
The product was prepared by General procedure S using 2.14 g (12.0 mmol) Cy2BH, 1.4 mL (12.0 mmol) 1-hexyne, 6 mL (12.0 mmol, 2.0 M in toluene) Me2Zn, 48 mg (0.2 mmol) (−)-MIB, and 1.01 mL (10.0 mmol) benzaldehyde. The crude product was purified by column chromatography on silica (5% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 85% yield (1.62 g, 8.52 mmol). [α]D20=+38.3 (c=1.01, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz): δ 0.85 (t, 3H, J=7.1 Hz), 1.22-1.37 (m, 4H), 1.81 (br s, 1H), 2.02 (dd, 2H, J=7.0, 6.5 Hz), 5.13 (d, 1H, J=6.6 Hz), 5.63 (dd, 1H, J=15.3, 6.7 Hz), 5.73 (dt, 1H, J=15.3, 6.6 Hz) and 7.22-7.34 (m, 5H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ.13.9, 22.2, 31.2, 31.8, 75.1, 126.1, 127.3, 128.4, 132.2, 132.7, and 143.4 ppm; IR (neat): 3354, 3068, 3027, 2926, 1667, and 1454 cm−1; HRMS-CI m/z 190.1350 [M+; calcd for C13H18O: 190.1358].

reactant | Cy2BH | 12.0 mmol, 2.14 g | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 12.0 mmol, 1.4 mL | C#CCCCC | C6H10
reactant | Me2Zn | 12.0 mmol, 2.0 M, 6 mL | [Zn](C)C
reactant | benzaldehyde | 10.0 mmol, 1.01 mL | C(C1=CC=CC=C1)=O | C7H6O
product | (S)-1-Phenyl-hept-2-en-1-ol | 85% yield | C1(=CC=CC=C1)[C@H](C=CCCCC)O | C13H18O
